US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-4-(4-methoxybenzyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 4-methoxybenzyl chloride, in 48% overall yield after flash chromatography eluting with EtOAc/hexane, mp 80°-82° C.; IR (KBr) 3496, 1660, 1515, 1501, 1412, 1250, 1057, 754 cm-1 ; 1H NMR (CDCl3) 8 2.00 (v br s, 1H), 2.16-2.37 (m, 2H), 3.77 (s, 3H), 3.91 (t, J=6.1 Hz, 2H), 4.82 (dd, J=7.5, 5.6 Hz, 1H), 5.09 (s, 2H), 6.85 (d, J=8.7 Hz, 2H), 6.91-7.00 (m, 4H), 7.18 (d, J=8.7 Hz, 2H); MH+ at m/z=314; Anal. Calc'd for C18H19 NO4 : C, 68.99; H, 6.11; N, 4.47. Found: C, 69.22; H, 6.10; N, 4.35.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 3,4-Dihydro-2-(2-hydroxyethyl)-4-(4-methoxybenzyl)-3-oxo-2H-1,4-benzoxazine | OCCC1OC2=C(N(C1=O)CC1=CC=C(C=C1)OC)C=CC=C2 | C18H19NO4
